US07351743B1
Preparation of N,N′-Bis(4-sec-butylphenyl)-N,N′-bis-methyl guanidine·HCl
Aluminum chloride (0.39 g, 2.93 mmol) was added to a stirred solution of 4-sec-butylphenyl-N-methyl cyanamide (0.5 g, 2.66 mmol) in chlorobenzene (14 mL) at 145° C. After 10 minutes 4-sec-butylphenyl-N-methyl amine hydrochloride (0.466 g, 2.34 mmol; prepared from 4-sec-butylphenyl-N-methyl amine and 1.0 M HCl-ether) was added and continued reflux. After 5 hours, the reaction mixture was evaporated on rotavapor and the product was purified by flash chromatography using chloroform/methanol (10:1) to afford the title compound (0.34 g, 38%) as an extremely hygroscopic solid, mp: 65-66° C.; TLC: Rf=0.13 (CHCl3:CH3OH; 10:1); 1H NMR (CD3OD): δ 6.99 (d, 4H, J=8.46 Hz, ArH), 6.80 (d, 4H, J=8.34 Hz, ArH), 3.36 (s, 6H, 2×-NCH3), 2.50 (m, 2H, 2×—CH), 1.58-1.53 (m, 4H, 2×-CH2), 1.16 (d, 6H, 2×-CH3), 0.79 (t, 6H, J=7.35 Hz, 2×-CH3); HRMS: 351.2660 (351.2674 Calcd. for C23HH33N3); Anal.: C23H33N3·HCl; 1.75H2O (418.74); Calcd. (%): C, 66.19, H, 8.64; N, 10.07; Found (%): C, 66.56, H, 8.55; N, 11.27; HPLC: (CH3CN:H2O 50:50 with 0.1% TFA): 99% pure.

reactant | Aluminum chloride | 2.93 mmol, 0.39 g | [Cl-].[Al+3].[Cl-].[Cl-]
reactant | 4-sec-butylphenyl-N-methyl cyanamide | 2.66 mmol, 0.5 g | C(C)(CC)C1=CC=C(C=C1)N(C#N)C | C12H16N2
reactant | 4-sec-butylphenyl-N-methyl amine hydrochloride | 2.34 mmol, 1.0 M, 0.466 g | Cl.C(C)(CC)C1=CC=C(C=C1)NC
solvent | chlorobenzene | 14 mL | ClC1=CC=CC=C1 | C6H5Cl
product | N,N′-Bis(4-sec-butylphenyl)-N,N′-bis-methyl guanidine·HCl | 0.34 g, 38% | C(C)(CC)C1=CC=C(C=C1)N(C(=N)N(C)C1=CC=C(C=C1)C(C)CC)C.Cl | InChI=1S/C23H33N3.ClH/c1-7-17(3)19-9-13-21(14-10-19)25(5)23(24)26(6)22-15-11-20(12-16-22)18(4)8-2;/h9-18,24H,7-8H2,1-6H3;1H
